US07732446B1
As described in example 1E, 100 mg of 1-(tert-butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinoline-4-carboxylic acid was coupled with methyl-(1-phenyl-ethyl)-amine to give 112 mg of {6,8-dimethoxy-4-[methyl-(1-phenyl-ethyl)-carbamoyl]-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester. MS: APCI (M+H) calc'd for C27H33N3O5+H 480.6; found 480.0.

reactant | 1-(tert-butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinoline-4-carboxylic acid | 100 mg | C(C)(C)(C)OC(=O)NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)C(=O)O | C18H22N2O6
reactant | methyl-(1-phenyl-ethyl)-amine | CNC(C)C1=CC=CC=C1 | C9H13N
product | {6,8-dimethoxy-4-[methyl-(1-phenyl-ethyl)-carbamoyl]-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester | 112 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)C(N(C(C)C1=CC=CC=C1)C)=O)=O | C27H33N3O5
